US05084466
The starting material was prepared by reaction of 4-hydroxybenzoic acid with ethyl chloroformate/4-ethylmorpholine and subsequent addition of p-cyanophenethylamine to give p-(p-cyanophenethylcarbamoyl)phenol and then etherification with methyl bromoacetate/KOH in acetone.

reactant | 4-hydroxybenzoic acid | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | ethyl chloroformate 4-ethylmorpholine | ClC(=O)OCC.C(C)N1CCOCC1
reactant | p-cyanophenethylamine | C(#N)C1=CC=C(CCN)C=C1 | C9H10N2
product | p-(p-cyanophenethylcarbamoyl)phenol | C(#N)C1=CC=C(CCNC(=O)C2=CC=C(C=C2)O)C=C1 | C16H14N2O2
